US05155113
Preparation of 4-benzoyloxy-5-chloro-1-ethoxymethyl-2-pyridone
The general procedure of Example 49 was followed using 200 mg of 5-chloro-1-ethoxymethyl-4-hydroxy-2-pyridone, 0.14 ml of benzoyl chloride, 0.68 ml of triethylamine and 20 ml of dioxane, thereby producing 280 mg of the title compound in a yield of 93%.

reactant | 5-chloro-1-ethoxymethyl-4-hydroxy-2-pyridone | 200 mg | ClC=1C(=CC(N(C1)COCC)=O)O | C8H10ClNO3
reactant | benzoyl chloride | 0.14 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.68 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-benzoyloxy-5-chloro-1-ethoxymethyl-2-pyridone | 280 mg, yield of 93% | C(C1=CC=CC=C1)(=O)OC1=CC(N(C=C1Cl)COCC)=O | C15H14ClNO4
